US05223498
A mixture of 1-((2-[bis(2-methyoxyethyl)amino]phenyl))thiourea (5 g), methyl iodide (1.4 ml) and acetone (25 ml) was heated at 40° C. for 2 hours. Removal of the solvent gave a residue which was triturated with ether to give 2-methyl-1-((2-[bis(2-methoxyethyl)amino]phenyl))-2-thiopseudourea hydroiodide (m.p. 111°-112° C.).

reactant | 1-((2-[bis(2-methyoxyethyl)amino]phenyl))thiourea | 5 g | COCCN(C1=C(C=CC=C1)NC(=S)N)CCOC | C13H21N3O2S
reactant | methyl iodide | 1.4 ml | CI | CH3I
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 2-methyl-1-((2-[bis(2-methoxyethyl)amino]phenyl))-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1)N(CCOC)CCOC)=N | InChI=1S/C14H23N3O2S.HI/c1-18-10-8-17(9-11-19-2)13-7-5-4-6-12(13)16-14(15)20-3;/h4-7H,8-11H2,1-3H3,(H2,15,16);1H
